US06177422B1
4-[4-(Methylphenyl)-piperazin-1-ylmethyl]-2-nitro-phenol (1.7 g, 5.2 mmol) is reduced with Raney nickel in 20 mL of THF under hydrogen. When the theoretical amount of hydrogen is taken up, the catalyst is removed by filtration. The THF is evaporated, and the residue is taken up in 50 mL of chloroform. Chloroacetyl chloride (0.65 g, 5.7 mmol) and sodium bicarbonate (1.6 g, 19.1 mmol) are added, and the mixture is stirred at room temperature for one-half hour, then extracted with water (3×50 mL) and dried over sodium sulfate. The solvent is evaporated, and the solid remaining is treated with excess potassium carbonate in 20 mL of chloroform at reflux overnight. Extraction with water, drying over sodium sulfate, and evaporation of the solvent gives a yellow solid. Recrystallization from ethyl acetate gives 0.27 g (16% yield) of 6-(4-p-tolyl-piperazin-1-ylmethyl)-4 H-benzo[1,4]oxazin-3-one; mp 209-212° C.

reactant | 4-[4-(Methylphenyl)-piperazin-1-ylmethyl]-2-nitro-phenol | 5.2 mmol, 1.7 g | CC1=C(C=CC=C1)N1CCN(CC1)CC1=CC(=C(C=C1)O)[N+](=O)[O-] | C18H21N3O3
reactant | hydrogen | [H][H] | H2
reactant | Chloroacetyl chloride | 5.7 mmol, 0.65 g | ClCC(=O)Cl | C2H2Cl2O
reactant | sodium bicarbonate | 19.1 mmol, 1.6 g | C([O-])(O)=O.[Na+]
catalyst | Raney nickel | [Ni] | Ni
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 6-(4-p-tolyl-piperazin-1-ylmethyl)-4 H-benzo[1,4]oxazin-3-one | 0.27 g, 16% yield | C1(=CC=C(C=C1)N1CCN(CC1)CC=1C=CC2=C(NC(CO2)=O)C1)C | C20H23N3O2
